US08293798B2
Methyl 4-{[({2-chloro-5-[(2,2-dimethylpropanoyl)oxy]phenyl}carbonyl)amino]methyl}benzoate
A solution of 2-chloro-5-hydroxybenzoic acid (1.0 g, 5.8 mmol) in DCM (10 ml) was treated with triethylamine (2.5 eq, 2.0 ml, 14.5 mmol) and 2,2-dimethylpropanoyl chloride (2.0 eq, 1.43 ml, 11.6 mmol). Mixture stirred at room temperature for 2 hours. A solution of methyl 4-(aminomethyl)benzoate hydrochloride (1.5 eq, 1.75 g, 8.7 mmol) and triethylamine (2.0 eq, 1.6 ml, 11.6 mmol) in DCM (10 ml) was then added and the mixture stirred at room temperature for another 2 hours. The mixture was diluted with DCM (300 ml) and aqueous sodium bicarbonate (100 ml), layers separated and aqueous layer extracted again with DCM (200 ml). Organic layers combined, washed with brine, dried over magnesium sulphate and evaporated. Residue purified by column chromatography (Biotage SP4) eluting with 0-30% EtOAc in Hex to give the title compound as a white solid. MS (ES+) m/z 404 [M+H]+ (C21H2235ClNO5). 1H-NMR (400 MHz, d6-DMSO) δ 1.30 (9H, s), 3.85 (3H, s), 4.51 (2H, d, J 6), 7.24 (1H, dd, J 8.8, J 2.8), 7.29 (1H, d, J 2.8), 7.51 (2H, d, J 8.8), 7.56 (2H, d, J 8.4), 7.95 (2H, m).

reactant | 2-chloro-5-hydroxybenzoic acid | 5.8 mmol, 1.0 g | ClC1=C(C(=O)O)C=C(C=C1)O | C7H5ClO3
reactant | triethylamine | 14.5 mmol, 2.0 ml, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylpropanoyl chloride | 11.6 mmol, 1.43 ml, 2.0 eq | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | methyl 4-(aminomethyl)benzoate hydrochloride | 8.7 mmol, 1.75 g, 1.5 eq | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | triethylamine | 11.6 mmol, 1.6 ml, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | Methyl 4-{[({2-chloro-5-[(2,2-dimethylpropanoyl)oxy]phenyl}carbonyl)amino]methyl}benzoate | ClC1=C(C=C(C=C1)OC(C(C)(C)C)=O)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C21H22ClNO5
